US05637591
A mixture of the 4-methoxy-2-nitrophenylazide (5.06 g, 26.1 mmol) and 7.8 mL of fleshly distilled toluene was heated to 110° C. for three hours and then cooled to 95° C. and stirred for an additional two hours. The toluene was removed in vacuo to give a brown solid. The crude product was recrystallized from methanol to yield 3.35 g (77% yield) of benzofuroxan as orange-brown crystals (m.p. 114°-115° C.). Rf 0.30 in 20% ethyl acetate/hexane. 1HNMR (CDCl3) δ 6.19 7.45 (m, 3H), 3.89 (s, 3H).

reactant | 4-methoxy-2-nitrophenylazide | 26.1 mmol, 5.06 g | COC1=CC(=C(C=C1)N=[N+]=[N-])[N+](=O)[O-] | C7H6N4O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | benzofuroxan | 3.35 g, 77% yield | C1=CC2=NO[N+](=C2C=C1)[O-] | C6H4N2O2
